US07777047B2
2-(2-{3-fluoro-7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetamide
To a solution of (2-{3-fluoro-7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid (97.2 mg) in tetrahydrofuran (2 mL) and acetonitrile (2 mL) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (48 mg) and 1-hydroxybenzotriazole monohydrate (39 mg), and the mixture was stirred at room temperature for 1 hr. Aqueous ammonia (28%, 2 mL) was added, and the mixture was stirred at room temperature for 30 min, and diluted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogencarbonate, water and saturated brine, dried over anhydrous magnesium sulfate, and filtrated, and the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (eluate: ethyl acetate), and the obtained solid was recrystallized (ethyl acetate-diisopropyl ether) to give the title compound (50.1 mg, yield 53%) as a colorless solid. melting point 204-205° C.

reactant | (2-{3-fluoro-7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid | 97.2 mg | FC1=C(NC2=C(C=CC=C12)N(S(=O)(=O)C=1SC=CC1)C)C=1SC(CN1)CC(=O)O | C18H16FN3O4S3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 48 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 39 mg | O.ON1N=NC2=C1C=CC=C2
reactant | ammonia | 2 mL | N | H3N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-{3-fluoro-7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetamide | 50.1 mg, yield 53% | FC1=C(NC2=C(C=CC=C12)N(S(=O)(=O)C=1SC=CC1)C)C=1SC(CN1)CC(=O)N | C18H17FN4O3S3
